US04568687
N-[3-(1H-Imidazol-1-yl)propyl]benzamide
A mixture of 1.22 g. of benzoic acid, 1.62 g. of 1,1'-carbonyldiimidazole and 30 ml. of tetrahydrofuran was stirred for 3 hours, then 1.98 g. of 1H-imidazole-1-propanamine dihydrochloride was added. The reaction mixture was stirred for 18 hours, then heated at reflux for 5 hours, then diluted with 5 ml. of water and heated for an additional 30 minutes. The mixture was concentrated to remove most of the solvent and to the residue was added chloroform and 35 ml. of 1N sodium hydroxide. The layers were separated. The organic layer was washed with water, dried over magnesium sulfate, concentrated and diethyl ether was added, giving the desired product, m.p. 134°-136° C.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1H-imidazole-1-propanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCN
solvent | water | O | H2O
product | N-[3-(1H-Imidazol-1-yl)propyl]benzamide | N1(C=NC=C1)CCCNC(C1=CC=CC=C1)=O | C13H15N3O
